US07354933B2
Bis(4-amino-2-chlorophenyl)disulfide
76.8 g (0.4 mol) of 1,2-dichloro-4-nitrobenzene, suspended in 120 ml of water, were heated to 90° C. and treated with a solution of 62.4 g (0.8 mol) of sodium sulfide and 12.8 g (0.4 mol) of sulfur in 200 ml of water.

reactant | 1,2-dichloro-4-nitrobenzene | 0.4 mol, 76.8 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])Cl | C6H3Cl2NO2
reactant | sodium sulfide | 0.8 mol, 62.4 g | [S-2].[Na+].[Na+]
reactant | sulfur | 0.4 mol, 12.8 g | [S] | S
solvent | water | 120 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | Bis(4-amino-2-chlorophenyl)disulfide | NC1=CC(=C(C=C1)SSC1=C(C=C(C=C1)N)Cl)Cl | C12H10Cl2N2S2
